US04758590
A stirred solution of 10.0 grams (0.076 mole) of 1,3,5-trifluorobenzene in 150 ml of anhydrous tetrahydrofuran, under an argon atmosphere, was cooled to -78° and 4.8 grams (0.076 mole) of n-butyllithium (as 48.7 ml of a 1.55 molar solution in hexane) was added dropwise during a 30-minute period. Upon completion of addition the reaction mixture was stirred at -78° for eight hours. A quantity of fresh, crushed dry ice, sufficient to cause the reaction mixture to become a thick slurry, was added to the reaction vessel. The reaction mixture was allowed to warm to ambient temperature as it was stirred for 26 hours. The tetrahydrofuran was removed from the reaction mixture under reduced pressure. The residue was washed into a separatory funnel with 100 ml of aqueous 2N sodium hydroxide and 200 ml of diethyl ether. The aqueous base layer was separated and the organic layer extracted with two 100 ml portions of aqueous 2N sodium hydroxide. The organic layer was discarded and the combined aqueous base layer and extracts were washed with 100 ml of diethyl ether, cooled, and acidified with concentrated hydrochloric acid. The mixture was saturated with sodium chloride and extracted with three portions of 150 ml each of diethyl ether. The combined ether extracts were dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to a solid residue. The residue was recrystallized from toluene to give 10.2 grams of 2,4,6-trifluorobenzoic acid; mp 225°-227°.

reactant | 1,3,5-trifluorobenzene | 0.076 mole, 10.0 grams | FC1=CC(=CC(=C1)F)F | C6H3F3
reactant | n-butyllithium | 0.076 mole, 4.8 grams | C(CCC)[Li]
reactant | dry ice | C(=O)=O | CO2
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 2,4,6-trifluorobenzoic acid | 10.2 grams | FC1=C(C(=O)O)C(=CC(=C1)F)F | C7H3F3O2
